spice
* List of Components
* Transistors
M1 Y X 0 0 NMOS
M3 Vout Vb VDD VDD PMOS

* Resistor
R1 VDD 5 RD

* Voltage Sources
VDD VDD 0 DC VDD
Vin X 0 AC Vin

* Capacitors
C1 X 0 CGD1*(1+gm1/gm3)
C2 X Y CGS3 + CGD1*(1+gm3/gm1) + CDBS
C3 Vout 0 CQD3 + CDB3

* Connections
* Netlist
M1 2 1 0 0 NMOS
M3 2 5 3 3 PMOS
R1 3 5 RD
VDD 3 0 DC VDD
Vin 1 0 AC Vin
C1 1 0 CGD1*(1+gm1/gm3)
C2 1 2 CGS3+CGD1*(1+gm3/gm1)+CDBS
C3 2 0 CQD3+CDB3

.end